US04125729
Methyl α-(1-naphthoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate
To a solution of 3.60 g of 1-naphthol, 1.188 g of sodium methoxide and 50 mg of potassium iodide in 40 ml of methanol is added 7.11 g of methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl)acetate in 10 ml of benzene. The solution is refluxed overnight and then poured into 100 ml of water. The mixture is extracted with 2 × 75 ml of ether. The combined extracts are washed with 2 × 50 ml of 5% NaOH, 50 ml of water, saturated brine and dried (MgSO4). Evaporation of the solvent yields a red oil. Chromatography on 100 g of silica gel (benzene, 400 ml) affords a pink oil which solidifies on trituration with petroleum ether to yield a pink solid, mp 107°-109.5° C.

reactant | 1-naphthol | 3.60 g | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | sodium methoxide | 1.188 g | C[O-].[Na+]
reactant | potassium iodide | 50 mg | [I-].[K+]
reactant | methyl α-bromo-α-[p-(p-chlorophenoxy)phenyl)acetate | 7.11 g | BrC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C15H12BrClO3
solvent | methanol | 40 ml | CO | CH4O
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
solvent | water | 100 ml | O | H2O
product | Methyl α-(1-naphthoxy)-α-[p-(p-chlorophenoxy)phenyl]acetate | C1(=CC=CC2=CC=CC=C12)OC(C(=O)OC)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C25H19ClO4
